US04051248
A. 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-4-anilino isonipecotamide
2-[(Dimethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride (10.0 g) and 4-anilino isonipecotamide (10.2 g) are dissolved in absolute ethanol (150 ml) by brief heating. The reaction mixture is stirred at room temperature under nitrogen for 16 hours. The resulting precipitate is collected by filtration, washed with additional absolute ethanol, and dried in vacuo to give the title compound.

reactant | 2-[(Dimethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride | 10.0 g | Cl.CN(C)CC1C(C2=CC=CC=C2CC1)=O
reactant | 4-anilino isonipecotamide | 10.2 g | N(C1=CC=CC=C1)C1(CCNCC1)C(=O)N | C12H17N3O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-4-anilino isonipecotamide | O=C1C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1 | C23H27N3O2
